US04762850
A solution of 3,5-difluorobenzylamine prepared as above (12.3 g, 0.0863 mole), methyl chloroacetate (7.6 ml, 0.0863 mole) and triethylamine (12.0 ml, 0.0863 mole) in dry dimethylformamide (85 ml) was heated at 60° C. for 3 hours. The mixture was diluted with an equal volume of ether and the triethylamine hydrochloride filtered. The filtrate was concentrated under vacuum, the resultant oil triturated with ethyl acetate, and the solution decanted from a small amount of residual oil. The solvent was removed and the product was purified by flash chromatography (silica) by eluting with hexane-ethyl acetate (70:30) to give N-(3,5-difluorobenzyl)glycine methyl ester as an oil (7.61 g, 41%).

reactant | 3,5-difluorobenzylamine | FC=1C=C(CN)C=C(C1)F | C7H7F2N
reactant | methyl chloroacetate | 0.0863 mole, 7.6 ml | ClCC(=O)OC | C3H5ClO2
reactant | triethylamine | 0.0863 mole, 12.0 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | N-(3,5-difluorobenzyl)glycine methyl ester | 7.61 g, 41% | COC(CNCC1=CC(=CC(=C1)F)F)=O | C10H11F2NO2
